US05294612
To concentrated sulfuric acid (50 ml) at 0° C. was added 1-cyclohexyl-3-methyl-4-cyano-5-amino-1H-pyrazole (2.2 g, 10.8 mmol). The reaction mixture was warmed to room temperature and stirred for 24 hours. The solution was poured into ice/concentrated ammonium hydroxide, the solution was then neutralized with acetic acid and extracted with dichloromethane (2×400 ml). The solvent was removed in vacuo, the residue was extracted with ethyl acetate (75 ml) and treated with DARCO. The solution was filtered, the solvent was removed in vacuo and the residue was dissolved in ether and cooled. A precipitate was obtained which was collected by filtration, washed with ether and dried at 50° C. in high vacuum for 60 hours to afford 1.83 g (76%) of 1-cyclohexyl-3-methyl-5-amino-1H-pyrazole-4-carboxamide as yellow needles, m.p. 181°-182° C.

reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-cyclohexyl-3-methyl-4-cyano-5-amino-1H-pyrazole | 10.8 mmol, 2.2 g | C1(CCCCC1)N1N=C(C(=C1N)C#N)C | C11H16N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-cyclohexyl-3-methyl-5-amino-1H-pyrazole-4-carboxamide | 1.83 g, 76% | C1(CCCCC1)N1N=C(C(=C1N)C(=O)N)C | C11H18N4O
